US06284894B1
To a solution of t-butylnitrite (0.47 ml, 4.0 mmol) and 2-acetoxymethyl-3-bromopropene (1.93 g, 10.0 mmol) in 1 ml CH3CN, 3,5-dinitroaniline (0.37 g, 2.0 mmol) was added, while maintaining the temperature between 18 and 24° C. The mixture was stirred for 1 h at room temperature. The volatile material in the solution was removed at reduced pressure. Flash chromatography (heptane/ethylacetate) gave 0.42 g 1-(2-acetoxymethyl-2-propenyl)-3,5-dinitrobenzene. 1H-NMR (CDCl3, 300 MHz) δ ppm: 8.94 (t, J=2.1 Hz, 1H), 8.42 (d, J=2.1 Hz, 2H), 5.33 (s, 1H), 5.05 (s, 1H), 4.52 (s, 2H), 3.64 (s, 2H), 2.08 (s, 3H). 13C-NMR (CDCl3, 75.43 MHz) δ ppm: 170.4, 148.5, 143.1, 140.7, 129.1, 117.5, 117.2, 65.9, 39.3, 20.7.

reactant | t-butylnitrite | 4.0 mmol, 0.47 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | 2-acetoxymethyl-3-bromopropene | 10.0 mmol, 1.93 g | C(C)(=O)OCC(=C)CBr | C6H9BrO2
reactant | 3,5-dinitroaniline | 2.0 mmol, 0.37 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
solvent | CH3CN | 1 ml | CC#N | C2H3N
product | 1-(2-acetoxymethyl-2-propenyl)-3,5-dinitrobenzene | 0.42 g | C(C)(=O)OCC(CC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=C | C12H12N2O6
